US04402960
A suspension of 7.4 g of 4,5-bis(4-methoxyphenyl)-1-benzylimidazole in 100 ml of a mixture of absolute ether/benzene 1:1 is combined dropwise under cooling with 13.8 ml of an approximately 1.6 N solution of butyllithium in hexane under agitation and a layer of argon; the temperature does not rise above 20° by cooling the mixture. The latter is then stirred for another 30 minutes and then 4.36 g of diphenyldisulfide in 25 ml of absolute ether is added as a solution to the reaction mixture. After 30 minutes of further agitation, the solution is washed with 2 N sodium hydroxide and water, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is crystallized from methylene chloride/ether, thus obtaining 8.53 g of 4,5-bis(4-methoxyphenyl)-2-phenylthio-1-benzylimidazole, mp 113°-115°.

reactant | 4,5-bis(4-methoxyphenyl)-1-benzylimidazole | 7.4 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C24H22N2O2
reactant | ether benzene | CCOCC.C1=CC=CC=C1
reactant | butyllithium | C(CCC)[Li]
reactant | diphenyldisulfide | 4.36 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | hexane | CCCCCC | C6H14
solvent | ether | 25 ml | CCOCC | C4H10O
product | 4,5-bis(4-methoxyphenyl)-2-phenylthio-1-benzylimidazole | 8.53 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1)SC1=CC=CC=C1 | C30H26N2O2S
